US09284308B2
Methyl 2-(4-(1H-pyrazol-1-yl)benzyl)-3-oxopentanoate
A mixture containing methyl 2-(4-(1H-pyrazol-1-yl)benzylidene)-3-oxopentanoate (mixture of alkene isomers, 3.5 g, 12 mmol, Intermediate 32: step a) and wet 10% palladium on carbon (2.6 g) in ethanol (123 mL) was stirred at 23° C. under an atmosphere of hydrogen gas (balloon pressure). After 2 hours, the reaction mixture was degassed by bubbling nitrogen gas through the solution. The degassed mixture was filtered through Celite®, rinsing with ethanol. The filtrate was concentrated to afford a colorless oil. Ethyl acetate (100 mL) was added. Celite® (8 g) was added to the solution and the solvent was removed by rotary evaporation to afford a free-flowing powder. The powder was loaded onto a column of silica gel for purification. Elution with hexanes initially, grading to 40% ethyl acetate-hexanes provided the title compound as a clear, colorless oil.

reactant | methyl 2-(4-(1H-pyrazol-1-yl)benzylidene)-3-oxopentanoate | N1(N=CC=C1)C1=CC=C(C=C(C(=O)OC)C(CC)=O)C=C1 | C16H16N2O3
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 2.6 g | [Pd] | Pd
solvent | ethanol | 123 mL | C(C)O | C2H6O
product | Methyl 2-(4-(1H-pyrazol-1-yl)benzyl)-3-oxopentanoate | N1(N=CC=C1)C1=CC=C(CC(C(=O)OC)C(CC)=O)C=C1 | C16H18N2O3
